US06960575B2
(2RS,3S)-3-Amino-2-hydroxy-4-phenylbutyramide (Reference compound No. 17-1)
A solution of isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate (200 mg, Reference compound No. 4-1) in methanol (3 ml) is saturated with an ammonia gas, and the solution is sealed and stirred overnight. The reaction solution is concentrated under reduced pressure to give the titled reference compound (162 mg).

reactant | isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate | N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C13H19NO3
reactant | ammonia | N | H3N
solvent | methanol | 3 ml | CO | CH4O
product | (2RS,3S)-3-Amino-2-hydroxy-4-phenylbutyramide | 162 mg | N[C@H](C(C(=O)N)O)CC1=CC=CC=C1 | C10H14N2O2
